US07138472B2
Preparation of a 6 Mole Percent 4-methacrylamidosalicylic acid (4-MASA)/6 Mole Percent Acrylamide/88 Mole Percent Sodium Acrylate Inverse Emulsion Copolymer by Batch Polymerization.
Representative high molecular weight inverse emulsion polymers prepared according to the method of Examples 13 and 14 are listed in Table 3. In Table 3, Na or (NH4) AA=sodium or ammonium acrylate, 4-MASA=4-methacrylamidosalicylic acid sodium salt, NaAMPS=2acrylamido-2-methylpropanesulfonate sodium salt, and AcAm=acrylamide.

reactant | sodium | [Na] | Na
reactant | ammonium acrylate | C(C=C)(=O)[O-].[NH4+]
reactant | 4-methacrylamidosalicylic acid sodium salt | [Na+].C(C(=C)C)(=O)NC=1C=C(C(C(=O)[O-])=CC1)O
reactant | 2acrylamido-2-methylpropanesulfonate sodium salt | [Na+].C(C=C)(=O)NC(CS(=O)(=O)[O-])(C)C
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
product | 4-methacrylamidosalicylic acid | C(C(=C)C)(=O)NC=1C=C(C(C(=O)O)=CC1)O | C11H11NO4
